US05502065
3-(1-methylpyrrolidin-2(R)-ylmethyl)-5-(tri-n-butylstannyl)-1-triisopropylsilylindole
n-ButylLithium (7.80 ml of a 2.5M solution in hexanes, 19.49 ml) was added dropwise to a solution of 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1-triisopropylsilylindole (6.28 g, 13.97 mmol) (Preparation 58) in tetrahydrofuran (430 ml) at -78° C. The reaction was then stirred at -70° C. for 1/2 hour whereupon tri-n-butylstannylchloride (3.97 ml, 4.64 mmol) was added and the reaction stirred at -70° C. for 20 minutes. The reaction was then warmed to room temperature and 14.4 ml of water was added and the resulting solution partitioned (971/2:21/2) to afford, after combination and evaporation of the appropriate fractions, the title compound as an oil. Found: C,70.29; H,8.72; N,8.17. C30H43N3O2Si.1/8CH2Cl2 requires: C,70.07; H,8.44; N,8.14%.

reactant | n-ButylLithium | C(CCC)[Li]
reactant | 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1-triisopropylsilylindole | 13.97 mmol, 6.28 g | BrC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)C[C@@H]1N(CCC1)C | C23H37BrN2Si
reactant | tri-n-butylstannylchloride | 4.64 mmol, 3.97 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | water | 14.4 ml | O | H2O
solvent | tetrahydrofuran | 430 ml | O1CCCC1 | C4H8O
product | 3-(1-methylpyrrolidin-2(R)-ylmethyl)-5-(tri-n-butylstannyl)-1-triisopropylsilylindole | CN1[C@H](CCC1)CC1=CN(C2=CC=C(C=C12)[Sn](CCCC)(CCCC)CCCC)[Si](C(C)C)(C(C)C)C(C)C | InChI=1S/C23H37N2Si.3C4H9.Sn/c1-17(2)26(18(3)4,19(5)6)25-16-20(15-21-11-10-14-24(21)7)22-12-8-9-13-23(22)25;3*1-3-4-2;/h9,12-13,16-19,21H,10-11,14-15H2,1-7H3;3*1,3-4H2,2H3;/t21-;;;;/m1..../s1
